US06506901B2
8-(Benzyloxy)-5-[(2S)oxiranylmethoxy]-3,4-dihydro-2(1H)-quinolinone
A mixture of 8-(benzyloxy)-5-hydroxy-3,4-dihydro-2(1H)-quinolinone (0.20 g, 0.743 mmol), (S)-(+)-glycidyl 3-nitrobenzenesulfonate (0.193 g, 0.743 mmol) and potassium carbonate (0.113 g, 0.817 mmol) in 2-butanone (10 mL) was heated at reflux for 16 hours. The solvent was removed in vacuo and the residue purified by flash chromatography (chloroform-methanol, 50:1) to yield the title compound (0.210 g, 0.61 mmol).

reactant | 8-(benzyloxy)-5-hydroxy-3,4-dihydro-2(1H)-quinolinone | 0.743 mmol, 0.20 g | C(C1=CC=CC=C1)OC=1C=CC(=C2CCC(NC12)=O)O | C16H15NO3
reactant | (S)-(+)-glycidyl 3-nitrobenzenesulfonate | 0.743 mmol, 0.193 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@@H]1CO1 | C9H9NO6S
reactant | potassium carbonate | 0.817 mmol, 0.113 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 10 mL | CC(CC)=O | C4H8O
product | 8-(Benzyloxy)-5-[(2S)oxiranylmethoxy]-3,4-dihydro-2(1H)-quinolinone | 0.61 mmol, 0.210 g | C(C1=CC=CC=C1)OC=1C=CC(=C2CCC(NC12)=O)OC[C@H]1OC1 | C19H19NO4
